US04952716
300 g of (4R,6R)-4-hydroxy-2,2,6-trimethylcyclohexanone were dissolved in 154.7 ml of pyridine. The solution was treated dropwise at -3° C. to 0° C. within 10 minutes with 1.2 l of acetic anhydride and then stirred at room temperature for a further 4.25 hours. The reaction mixture was subsequently concentrated on a rotary evaporator at 60° C./16 mbar, whereby there were obtained 394.7 g of crude product as a yellow oil. Distillation of the crude product gave at about 95° C./0.07 mbar 378.4 g (99.4%) of (4R,6R)-4-acetoxy-2,2,6-trimethylcyclohexanone as a colourless oil.

reactant | (4R,6R)-4-hydroxy-2,2,6-trimethylcyclohexanone | 300 g | O[C@H]1CC(C([C@@H](C1)C)=O)(C)C | C9H16O2
reactant | acetic anhydride | 1.2 l | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 154.7 ml | N1=CC=CC=C1 | C5H5N
product | (4R,6R)-4-acetoxy-2,2,6-trimethylcyclohexanone | 378.4 g, 99.4% | C(C)(=O)O[C@H]1CC(C([C@@H](C1)C)=O)(C)C | C11H18O3
